US08404679B2
N-[(3RS,4SR)-4-(4-Chloro-phenyl)-1-(4-fluoro-2-methyl-benzoyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(4-fluoro-2-methyl-benzoyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide was prepared from N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 4-fluoro-2-methylbenzoic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a light brown oil. MS m/e: 549.2 [M+H]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CNC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C20H20ClF3N2O2
reactant | 4-fluoro-2-methylbenzoic acid | FC1=CC(=C(C(=O)O)C=C1)C | C8H7FO2
product | N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(4-fluoro-2-methyl-benzoyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(C1=C(C=C(C=C1)F)C)=O)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C28H25ClF4N2O3
